US08871767B2
2-chloro-6-(2-fluorophenyl)imidazo[1,2-b]pyridazine
To a solution of methyl 2-(3-(2-fluorophenyl)-6-iminopyridazin-1(6H)-yl)acetate hydrobromide (0.5 g, 1.46 mmol) in chlorobenzene (20 mL) is added POCl3 (7.30 mmol). The reaction mixture is heated at 120° C. for 4 hours, cooled, concentrated under reduced pressure to dryness and sat. aqueous NaHCO3 (25 mL) is added. The mixture is extracted with CH2Cl2 (3×20 mL). Organic layer is collected, dried over Na2SO4, filtered and concentrated to dryness. The crude product is purified via silica chromatography (hexanes to EtOAc) to afford the title compound (0.309 g, 85%) as a white solid: Rf 0.39 (1:4 EtOAc:hexanes); LCMS (m/z)=248.2, 250.2 [M+H]+, tR=2.51 min.

reactant | methyl 2-(3-(2-fluorophenyl)-6-iminopyridazin-1(6H)-yl)acetate hydrobromide | 1.46 mmol, 0.5 g | Br.FC1=C(C=CC=C1)C1=NN(C(C=C1)=N)CC(=O)OC
reactant | POCl3 | 7.30 mmol | O=P(Cl)(Cl)Cl | Cl3OP
solvent | chlorobenzene | 20 mL | ClC1=CC=CC=C1 | C6H5Cl
product | 2-chloro-6-(2-fluorophenyl)imidazo[1,2-b]pyridazine | 0.309 g, 85% | ClC=1N=C2N(N=C(C=C2)C2=C(C=CC=C2)F)C1 | C12H7ClFN3
